US07939526B2
A solution of potassium carbonate (3.4 g, 24.3 mmol) in water (9 mL) was added to a stirred suspension of N-{4-[(2-hydroxy-2-methylpropyl)amino]quinolin-3-yl}-2-methoxyacetamide hydrochloride (5.5 g, 16.2 mmol) in ethanol (23 mL). The reaction mixture was heated at reflux for 1.5 hours, then was allowed to cool to room temperature. The mixture was concentrated under reduced pressure to yield an aqueous slurry that was diluted with water (50 mL) and a small amount of brine. The mixture was extracted with dichloromethane (2×50 mL). The organic layers were combined, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The crude oil was purified by flash chromatography (silica gel, 5% methanol in dichloromethane) to yield 4.2 g of 1-[2-(methoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as an oil that slowly solidified.

reactant | potassium carbonate | 24.3 mmol, 3.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-{4-[(2-hydroxy-2-methylpropyl)amino]quinolin-3-yl}-2-methoxyacetamide hydrochloride | 16.2 mmol, 5.5 g | Cl.OC(CNC1=C(C=NC2=CC=CC=C12)NC(COC)=O)(C)C
solvent | water | 9 mL | O | H2O
solvent | ethanol | 23 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | 1-[2-(methoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 4.2 g | COCC=1N(C2=C(C=NC=3C=CC=CC23)N1)CC(C)(O)C | C16H19N3O2
